US07186742B2
2-Chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid methyl ester
A mixture of 2-chloro-5-ethynyl-benzoic acid methyl ester (0.18 g, 0.92 mmol) and trimethylsilyl azide (0.16 g, 1.39 mmol) in n-butanol was heated to reflux for 16 h. A second portion of trimethylsilyl azide (0.16 g, 1.39 mmol) was added and the mixture was refluxed for a further 16 h. A third portion of trimethylsilyl azide (0.16 g, 1.39 mmol) was added and the mixture was refluxed for a further 16 h. Silica gel was added and the mixture was concentrated in vacuo. The residue was purified by flash column chromatography (2:1 hexanes-ethyl acetate) to afford the title compound (0.095 g).

reactant | 2-chloro-5-ethynyl-benzoic acid methyl ester | 0.92 mmol, 0.18 g | COC(C1=C(C=CC(=C1)C#C)Cl)=O | C10H7ClO2
reactant | trimethylsilyl azide | 1.39 mmol, 0.16 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | trimethylsilyl azide | 1.39 mmol, 0.16 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | trimethylsilyl azide | 1.39 mmol, 0.16 g | C[Si](C)(C)N=[N+]=[N-] | C3H9N3Si
solvent | n-butanol | C(CCC)O | C4H10O
product | 2-Chloro-5-(2H-[1,2,3]triazol-4-yl)-benzoic acid methyl ester | 0.095 g | COC(C1=C(C=CC(=C1)C1=NNN=C1)Cl)=O | C10H8ClN3O2
